US04965270
(c) (S)-4-Chloro-2,5-diformamido-6-(2,2-dimethyl-1,3-dioxolan-4-ylmethoxyamino)pyrimidine
A mixture of 4,6-dichloro-2,5-diformamidopyrimidine (7.3 g, 31.1 mmol), (S)-2,2-dimethyl-1,3-dioxolan-4-ylmethoxyamine (4.6 g, 31.1 mmol) and diisopropylethylamine (8.03 g, 62.1 mmol) in diglyme (125 ml) was stirred at 100° C. for 4 h. The reaction was filtered, evaporated and the residue chromatographed twice in chloroform-methanol 15:1 affording (S)-4-chloro-2,5-diformamido-6-(2,2-dimethyl-1,3-dioxolan-4-ylmethoxyamino)pyrimidine(2.6 g, 24%). υmax (CHCl3) 3400, 1700, 1580, 1560 and 1470 cm-1 ; δH (CDCl3) 1.39(3H,S,CH3), 1.48(3H,S,CH3) , 3.60-4.65(5H,m,CH2ONH+CH2OCMe2 +CHOCMe2), 7.96(1H,br.m, D2O exchangeable, NH), 8.34(1H,S,CHO), 9.25(2H,br.m,D2O exchangeable, 2XNH) and 9.50(1H,S,CHO); m/z 344(M+ -H,<1%), 330(M+ -CH3, <1%).

reactant | 4,6-dichloro-2,5-diformamidopyrimidine | 31.1 mmol, 7.3 g | ClC1=NC(=NC(=C1NC=O)Cl)NC=O | C6H4Cl2N4O2
reactant | (S)-2,2-dimethyl-1,3-dioxolan-4-ylmethoxyamine | 31.1 mmol, 4.6 g | CC1(OC[C@H](O1)CON)C | C6H13NO3
reactant | diisopropylethylamine | 62.1 mmol, 8.03 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | diglyme | 125 ml | COCCOCCOC | C6H14O3
product | (S)-4-Chloro-2,5-diformamido-6-(2,2-dimethyl-1,3-dioxolan-4-ylmethoxyamino)pyrimidine | ClC1=NC(=NC(=C1NC=O)NOC[C@H]1OC(OC1)(C)C)NC=O | C12H16ClN5O5
